US05387610
Pseudopeptide Boc--Nalψ[CH2S]Ala--OH (1.33 g; 3.4 mmol) was dissolved in THF (25 ml) and the solution was cooled to -30° C. Et3N (0.48 ml; 3.4 mmol) was added, followed by isobutyl chloroformate (0.46 ml; 3.5 mmol). After 15 min an excess of NH3 in CHCl3 was added and the reaction was stirred for 30 min at -30° C. and at room temperature for 3 h. The solvent was removed in vacuo and the residue was dissolved in AcOEt (250 ml). The organic solution was washed with H2O (1×50 ml), NaHCO3 5% (2×50 ml), H2O (1×50 ml), 0.5M citric acid (2×50 ml) and saturated NaCl, then was dried over Na2SO4 and filtered. After evaporation in vacuo of AcOEt, the residue was crystallized from AcOEt/hexane (1.2 g; 90% yield).

reactant | Et3N | 3.4 mmol, 0.48 ml | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 3.5 mmol, 0.46 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH3 | N | H3N
reactant | THF | 25 ml | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | AcOEt hexane | 1.2 g, 90% yield | CCOC(=O)C.CCCCCC | InChI=1S/C6H14.C4H8O2/c1-3-5-6-4-2;1-3-6-4(2)5/h3-6H2,1-2H3;3H2,1-2H3
